US06197973B1
Methyl N-methoxy-2,4-dichloro-5-(5-difluoromethoxy-4-fluoro-1-methyl-1H-pyrazol-3-yl)benzimidate (No. Ib.3)
Using 0.5 g (1.3 mmol) of N-methoxy-2,4-dichloro-5-(5-difluoromethoxy-4-fluoro-1-methyl-1H-pyrazol-3-yl)benzamide, 0.21 g (1.6 mmol) of potassium carbonate and 0.20 g (1.6 mmol) of dimethyl sulfate and following the procedure described in Example 1, 0.17 g of the desired produce of value was obtained.

reactant | N-methoxy-2,4-dichloro-5-(5-difluoromethoxy-4-fluoro-1-methyl-1H-pyrazol-3-yl)benzamide | 1.3 mmol, 0.5 g | CONC(C1=C(C=C(C(=C1)C1=NN(C(=C1F)OC(F)F)C)Cl)Cl)=O | C13H10Cl2F3N3O3
reactant | potassium carbonate | 1.6 mmol, 0.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 1.6 mmol, 0.20 g | S(=O)(=O)(OC)OC | C2H6O4S
product | Methyl N-methoxy-2,4-dichloro-5-(5-difluoromethoxy-4-fluoro-1-methyl-1H-pyrazol-3-yl)benzimidate | CON=C(C1=C(C=C(C(=C1)C1=NN(C(=C1F)OC(F)F)C)Cl)Cl)OC | C14H12Cl2F3N3O3
